US04198348
A stream of gaseous chlorine in introduced at a speed of about 33 g/h into a suspension of 111 g of 99.5% pure benzamide (0.91 mol) in 700 ml of water maintained at a temperature of 15°-20° C. After 2 h and 15 min 75 g of chlorine (1.05 mol), controlled by weighing, have been absorbed. The mass is stirred for another 15 min at a temperature of 20° C., then the chlorinated product obtained is filtered off and is washed with water until the hydrochloric acid has disappeared. 140 g of N-chlorobenzamide (yield 98.9%) containing 21.87% of active chlorine, corresponding to a titer of 96%, are obtained.

reactant | chlorine | ClCl | Cl2
reactant | benzamide | 0.91 mol, 111 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | chlorine | 1.05 mol, 75 g | ClCl | Cl2
solvent | water | 700 ml | O | H2O
product | N-chlorobenzamide | 140 g, yield 98.9% | ClNC(C1=CC=CC=C1)=O | C7H6ClNO
